US07897607B2
2-(2,4-Dimethylphenyl)-N-methyl-6-nitrobenzamide
To a mixture containing 0.32 g (1.12 mmol) of methyl 2-(2,4-dimethylphenyl)-6-nitrobenzoate in methanol (2.2 ml), tetrahydrofuran (3.5 ml) and water (3.5 ml) was added 0.18 g (4.5 mmol) of sodium hydroxide. The reaction was allowed to stir at 65° C. for 12 h. The solution was cooled, diluted with ethyl acetate (10 mL) and water (10 mL) and shaken vigorously. The aqueous layer was separated, acidified to pH=3 and extracted with ethyl acetate (3×). The combined ethyl acetate layers were washed with brine, dried (Na2SO4), filtered and concentrated. The residue was then dissolved in tetrahydrofuran (10 mL) and methylamine (0.14 g, 2.2 mmol), O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HBTU) (0.62 g, 1.66 mmol), and diisopropylethylamine (0.28 mL, 2.2 mmol) were added. The reaction was allowed to stir at room temperature for 12 h. The reaction was diluted with ethyl acetate and washed with saturated sodium bicarbonate. The organic phase was dried over magnesium sulfate. Filtration, removal of solvent and purification of the residue via biotage eluting with 30% ethyl acetate/hexanes gave 0.095 g (30%) of product.

reactant | methyl 2-(2,4-dimethylphenyl)-6-nitrobenzoate | 1.12 mmol, 0.32 g | CC1=C(C=CC(=C1)C)C1=C(C(=O)OC)C(=CC=C1)[N+](=O)[O-] | C16H15NO4
reactant | sodium hydroxide | 4.5 mmol, 0.18 g | [OH-].[Na+]
reactant | methylamine | 2.2 mmol, 0.14 g | CN | CH5N
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 1.66 mmol, 0.62 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | diisopropylethylamine | 2.2 mmol, 0.28 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methanol | 2.2 ml | CO | CH4O
solvent | tetrahydrofuran | 3.5 ml | O1CCCC1 | C4H8O
solvent | water | 3.5 ml | O | H2O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 10 mL | O | H2O
product | 2-(2,4-Dimethylphenyl)-N-methyl-6-nitrobenzamide | 0.095 g, 30% | CC1=C(C=CC(=C1)C)C1=C(C(=O)NC)C(=CC=C1)[N+](=O)[O-] | C16H16N2O3
